US05969137
2,6-Dimethyl4-isopropylbenzyl alcohol
4Bromo-2,6-dimethylbenzyl alcohol, from 4-bromo-2,6-dimethylbenzaldehyde (Hjed, H. et al. Acta Chem. Scand. 1965, 19:2166); 95% yield, mp 117-119° C.

reactant | 4Bromo-2,6-dimethylbenzyl alcohol | BrC1=CC(=C(CO)C(=C1)C)C | C9H11BrO
reactant | 4-bromo-2,6-dimethylbenzaldehyde | BrC1=CC(=C(C=O)C(=C1)C)C | C9H9BrO
product | 2,6-Dimethyl4-isopropylbenzyl alcohol | 95% yield | CC1=C(CO)C(=CC(=C1)C(C)C)C | C12H18O
